US09120749B2
1-{6-Bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (250 mg, 0.880 mmol) was reacted with trans-N1,N1-dimethylcyclohexane-1,4-diamine hydrochloride (280 mg, 1.32 mmol) to afford the desired product (63 mg, 18%): ESI MS m/z 390 [C19H24BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 0.880 mmol, 250 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | trans-N1,N1-dimethylcyclohexane-1,4-diamine hydrochloride | 1.32 mmol, 280 mg | Cl.CN([C@@H]1CC[C@H](CC1)N)C
product | 1-{6-Bromo-4-[trans-4-(dimethylamino)cyclohexylamino]quinolin-3-yl}ethanone | 63 mg, 18% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)N[C@@H]1CC[C@H](CC1)N(C)C | C19H24BrN3O
